US06858638B2
5-Amino-3-methylsulfonylamino-1H-indazole can be obtained as described in Example 4 from 256 mg of 3-methylsulfonylamino-5-nitro-1H-indazole, 10 ml of ethanol, 2 g of ferrous sulfate, 3.2 ml of water and 2.4 ml of 32% aqueous ammonia. 0.1 g of 5-amino-3-methylsulfonylamino-1H-indazole is thus obtained in the form of an oil used as it is in the following step.

reactant | 3-methylsulfonylamino-5-nitro-1H-indazole | 256 mg | CS(=O)(=O)NC1=NNC2=CC=C(C=C12)[N+](=O)[O-] | C8H8N4O4S
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | ammonia | 2.4 ml | N | H3N
solvent | water | 3.2 ml | O | H2O
product | 5-amino-3-methylsulfonylamino-1H-indazole | 0.1 g | NC=1C=C2C(=NNC2=CC1)NS(=O)(=O)C | C8H10N4O2S
